US08980911B2
A mixture of ethyl N-[3,5-dichloro-4-({4-[(cyclopropylcarbonyl)amino]-1H-pyrrolo[3,2-c]pyridin-1-yl}carbonyl)benzoyl]alaninate (20 mg, 0.038 mmol) in tetrahydrofuran and water (1:1, 1 mL) was treated with sodium hydroxide (1.5 mg) and stirred at room temperature for about 1 hour. Tetrahydrofuran was removed under vaccuo and the residue was acidified with hydrochloric acid solution (1N, upto pH 2). The solid was filtered and dried to get pure N-[3,5-dichloro-4-({4-[(cyclopropylcarbonyl)amino]-1H-pyrrolo[3,2-c]pyridin-1-yl}carbonyl)benzoyl]alanine (12 mg, 66%).

reactant | ethyl N-[3,5-dichloro-4-({4-[(cyclopropylcarbonyl)amino]-1H-pyrrolo[3,2-c]pyridin-1-yl}carbonyl)benzoyl]alaninate | 0.038 mmol, 20 mg | ClC=1C=C(C(=O)N[C@@H](C)C(=O)OCC)C=C(C1C(=O)N1C=CC=2C(=NC=CC21)NC(=O)C2CC2)Cl | C24H22Cl2N4O5
reactant | sodium hydroxide | 1.5 mg | [OH-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | 1 mL | O | H2O
product | N-[3,5-dichloro-4-({4-[(cyclopropylcarbonyl)amino]-1H-pyrrolo[3,2-c]pyridin-1-yl}carbonyl)benzoyl]alanine | 12 mg, 66% | ClC=1C=C(C(=O)N[C@@H](C)C(=O)O)C=C(C1C(=O)N1C=CC=2C(=NC=CC21)NC(=O)C2CC2)Cl | C22H18Cl2N4O5
